US08975282B2
Step 4) N-(4-((2-(cyclopropanecarboxamido)pyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a solution of N-(4-((2-aminopyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (200 mg, 0.48 mmol) in DCM (5 mL) was added triethylamine (1 mL), followed by adding cyclopropanecarbonyl chloride (104.5 mg, 0.96 mmol) at 0° C. The reaction mixture was warmed to rt and stirred for 3 hours, then quenched with water (10 mL). The separated organic layer was added saturated aq. Na2CO3 (10 mL) and EtOH (30 mL). The mixture was stirred at rt for 30 minutes and concentrated in vacuo. The residue was purified by a silica gel column chromatography (DCM/MeOH (v/v)=80/1) to give the title compound as a white solid (130 mg, 56%).

reactant | N-(4-((2-aminopyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.48 mmol, 200 mg | NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C23H21N5O3
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 0.96 mmol, 104.5 mg | C1(CC1)C(=O)Cl | C4H5ClO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-((2-(cyclopropanecarboxamido)pyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 130 mg, 56% | C1(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C27H25N5O4
